US06498172B1
3-(3-{[Benzofuran-2-ylmethyl-(4-fluro-benzenesulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step B of Example 1 from 3-(3-{[(benzofuran-2-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12u, and 4-fluorobenzenesulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.82 (m, 2H), 7.46 (m, 1H), 7.28-7.03 (m, 9H), 6.42 (s, 1H), 4,45 (s, 2H), 4.38 (s, 2H), 3.67 (s, 3H), 2.90 (t, 2H), 2.58 (t, 2H).

reactant | 3-(3-{[(benzofuran-2-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC=1OC2=C(C1)C=CC=C2)=O | C20H21NO3
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzofuran-2-ylmethyl-(4-fluro-benzenesulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C1=CC=C(C=C1)F)CC=1OC2=C(C1)C=CC=C2)=O | C26H24FNO5S
